US04362728
2,2,2-Trifluoroethylisothiocyanate (2.12 g.) was added to a mixture of 2,2,2-trifluoroethylamine hydrochloride (1.36 g.), triethylamine (1.01 g.) and acetonitrile (10 ml.), and the mixture stirred at room temperature for 4 hours and then evaporated to dryness. The residue was partitioned between water and ethyl acetate, and the ethyl acetate phase was dried and evaporated to dryness. The residue was recrystallised from a mixture of acetone and light petroleum ether (b.p. 60°-80°) to give 1,3-di(2,2,2-trifluoroethyl)-thiourea, m.p. 152°-153°.

reactant | 2,2,2-Trifluoroethylisothiocyanate | 2.12 g | FC(CN=C=S)(F)F | C3H2F3NS
reactant | 2,2,2-trifluoroethylamine hydrochloride | 1.36 g | Cl.FC(CN)(F)F
reactant | triethylamine | 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1,3-di(2,2,2-trifluoroethyl)-thiourea | FC(CNC(=S)NCC(F)(F)F)(F)F | C5H6F6N2S
